US08703761B2
B. 2-(2-Amino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-(2-Benzyloxycarbonylamino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (1.57 g, 3.36 mmol) and 33% HBr (in acetic acid, 8 mL) in acetic acid (7 mL) was stirred at RT for 2 h, basified carefully to pH 7˜8 by addition of aqueous KOH, and the product was extracted with ethyl acetate, dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 334.1 (MH+).

reactant | 2-(2-Benzyloxycarbonylamino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 3.36 mmol, 1.57 g | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)NC(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H25N3O5S
reactant | HBr | 8 mL | Br | BrH
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | 2-(2-Amino-2-methyl-propionylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)N)=O)C1=CC=CC=C1 | C16H19N3O3S
